US04096264
A. 2-Amino-3-phenylthio pyridine
A mixture of 59.1 g. (0.316 mole) of 3-phenylthiopyridine, 14.7 g. (0.318 mole) of sodium amide and 84 gms. of dimethyl aniline is heated at 150°-160° C for 6 hours. After dilution with 100 ml. of water, the reaction mixture is extracted with chloroform. The combined extracts are washed with water and dried. Evaporation of the solvent in vacuo yields an oily residue. The residue is triturated with three 100 ml. portions of petroleum ether yielding 17 gm. of crude insoluble product. Proton magnetic resonance spectroscopy indicates the material is a 50/50 mixture of 2- and 6-amino derivatives. The isomers are separated on silica gel eluted with 10% ethylacetate 90% methylene chloride affording pure 2-amino 3-(phenylthio) pyridine, m.p. 108° -109° C.

reactant | 3-phenylthiopyridine | 0.316 mole | C1(=CC=CC=C1)SC=1C=NC=CC1 | C11H9NS
reactant | sodium amide | 0.318 mole | [NH2-].[Na+]
reactant | dimethyl aniline | CN(C1=CC=CC=C1)C | C8H11N
product | 2-Amino-3-phenylthio pyridine | NC1=NC=CC=C1SC1=CC=CC=C1 | C11H10N2S
